US07101891B2
9-Chloro-3-methyl-5-[1-(quinoline-2-carbonyl)-piperidin-3-yl]-5H-isoxazolo[4,3-c]quinolin-4-one
To a dry roundbottom flask is add 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide (50 mg, 0.11 mmol), quinaldic acid (23 mg, 0.13 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26 mg, 0.13 mmol), 1-hydroxy-7-azabenzotriazole (18 mg, 0.13 mmol), 4-dimethylamino-pyridine (1 mg, 0.01 mmol), and dimethylformamide (3 mL). Stir the reaction under nitrogen, and add triethylamine (30 μL, 0.22 mmol) dropwise. Stir the solution under nitrogen at room temperature overnight. Concentrate the solution and dissolve in 20% isopropanol/chloroform, wash with 1N sodium thiosulfate, saturated aqueous sodium bicarbonate solution, brine, dry over magnesium sulfate and concentrate. Purify by flash chromatography on silica gel (eluting with 0–1% methanol/ chloroform) to give 40.6 mg of the title compound as a white solid, 77% yield. 1H NMR: consistent with structure. MS (ion spray) 466 (M+).

reactant | 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide | 0.11 mmol, 50 mg | I.ClC=1C=2C=3C(C(N(C2C=CC1)C1CNCCC1)=O)=C(ON3)C
reactant | quinaldic acid | 0.13 mmol, 23 mg | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.13 mmol, 26 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.13 mmol, 18 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylamino-pyridine | 0.01 mmol, 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 9-Chloro-3-methyl-5-[1-(quinoline-2-carbonyl)-piperidin-3-yl]-5H-isoxazolo[4,3-c]quinolin-4-one | 40.6 mg, 77% yield | ClC=1C=2C=3C(C(N(C2C=CC1)C1CN(CCC1)C(=O)C1=NC2=CC=CC=C2C=C1)=O)=C(ON3)C | C26H21ClN4O3
